US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl ester TFA (39.6 mg, 0.093 mmol), prepared substantially as described in Part C of Example 19a, and 1-methoxymethyl-propylamine (191.0 mg, 1.85 mmol) were treated substantially as described in Part C of Example 19a to produce 30 mg (81%) of crude [4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine: MS (EI) m/z 397.19 [(M+H)+, 100].

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl ester TFA | 0.093 mmol, 39.6 mg | OC(=O)C(F)(F)F.ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-]
reactant | 1-methoxymethyl-propylamine | 1.85 mmol, 191.0 mg | COCC(CC)N | C5H13NO
product | [4-(2-chloro-4-dimethylamino-5-fluoro-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 30 mg, 81% | ClC1=C(C=C(C(=C1)N(C)C)F)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-] | C18H22ClFN4O3
